US05523456
Step C Preparation of N-[2(S)-(t-Butoxycarbonylamino)-3(S)-methylpentyl]-N-(1-naphthylmethyl)glycine
N-[2(S)-(t-Butoxycarbonylamino)-3(S)-methylpentyl]-N-(1-naphthylmethyl)glycine methyl ester (2.61 g, 6.10 mmol) was dissolved in MeOH (50 ml) and 1N NaOH (24.4 ml, 24.4 mmol) was added. The mixture was stirred at ambient temperature for 4 h and concentrated. The resulting residue was dissolved in water (25 ml) and neutralized with 1N HCl (24.4 ml). The aqueous layer was washed with EtOAc (3×50 ml). The organic layers were combined, dried with Na2SO4, filtered, and concentrated to give the product. 1H NMR (CD3OD) δ8.43 (1H, d, J=6Hz), 7.97 (2H, t, J=6 Hz) 7.75-7.48 (4H, m), 4.96 (1H, d, J=12Hz), 4.72 (1H, d, J=12 Hz), 3.80-3.58 (3H, m), 3.49-3.40 (1H, dd,, J=3 and 12 Hz), 3.03 (1H, dd, J=3 and 12 Hz), 1.42 (9H, s,), 1.37-1.28 (2H, m), 1.80-1.00 (1H, m), 0.94-0.78 (6H, m,) ppm.

reactant | N-[2(S)-(t-Butoxycarbonylamino)-3(S)-methylpentyl]-N-(1-naphthylmethyl)glycine methyl ester | 6.10 mmol, 2.61 g | COC(CN(CC1=CC=CC2=CC=CC=C12)C[C@H]([C@H](CC)C)NC(=O)OC(C)(C)C)=O | C25H36N2O4
reactant | NaOH | 24.4 mmol, 1N, 24.4 ml | [OH-].[Na+]
solvent | MeOH | 50 ml | CO | CH4O
product | N-[2(S)-(t-Butoxycarbonylamino)-3(S)-methylpentyl]-N-(1-naphthylmethyl)glycine | C(C)(C)(C)OC(=O)N[C@H](CN(CC(=O)O)CC1=CC=CC2=CC=CC=C12)[C@H](CC)C | C24H34N2O4
